Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Lisinopril / 
Hydrochlorothiazide
 
Attending: ___
 
Chief Complaint:
Vaginal bleeding
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ ___ with history of fibroid uterus and abnormal uterine 
bleeding presents with vaginal bleeding x10 days. 

Patient has been followed by primary OB/GYN at ___ and ___ 
recently Dr. ___ in MIGS. Briefly, she has had heavy menstrual 
bleeding for years. She has a nexplanon in place since ___ with minimal improvement in her vaginal bleeding. She was 
counseled on her options in ___ and given rx for aygestin. On 
followup ___, she elected to proceed with UAE for treatment.  


Since her prior visit, she states that her period began ___. 
She has had bleeding daily using a minimum of 6 super sized 
tampons. She has passed tennis ball sized clots that are dark 
red. On day of admission, she noticed heavier bleeding and used 
6 tampons over a 5 hour period. She also had some 
lightheadedness and therefore presented to the emergency room 
for further evaluation. 

There, she was found to be tachycardic to 135 and received 1L 
IVF. Her labs were notable for a hematocrit of 27, downtrend 
from 33 in ___. On examination, she had clot removed and 
active bleeding with difficulty visualizing the cervical os. She 
was given 1000mg tranexamic acid at ___. 

Patient denies continued dizziness or lightheadedness. No CP, 
SOB. She has abdominal cramps that are ___, at her baseline. 
She stated she has continued to have vaginal bleeding and has 
used 5 pads over a 4 hour period in the emergency room. She 
states she did not use the prescribed aygestin as it gave her 
nausea and discomfort. 

Patient also states she wishes to have a hysterectomy at this 
time. In the past she had considered UAE but is worried about 
continued symptoms after the procedure. She has an appointment 
scheduled with Dr. ___ on ___ and Dr. ___ on ___ to review 
her options.

 
Past Medical History:
PObHx: G8P4
- SAB x 2
- TAB x 2
- SVD x 4 

PGynHx:
- Denies dysmenorrhea, menorrhagia until IUD recently removed 
- Distant h/o abnormal Pap, most recent was normal (last at 
___
___
-  4.8cm simple right adnexal cyst and fibroid uterus noted on
___ PUS
- Denies history of STIs, gynecological diagnoses such a
endometriosis
- Has used the following contraceptive methods: Mirena IUD, OCPs

PMHx: nephrolithiasis, HTN, anemia

PSHx: lithotripsy

 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
General: NAD, resting comfortably in bed
CV: RRR
Lungs: LCTAB, no respiratory distress
Abd: soft, nontender, nondistended, +BS
GU: pad saturated with moderate blood, about to be changed
Extremities: Nexplanon palpable in L arm; no calf 
tenderness/erythema
 
Pertinent Results:
___ 12:45PM BLOOD WBC-6.2 RBC-3.12* Hgb-9.3* Hct-27.6* 
MCV-89 MCH-29.8 MCHC-33.7 RDW-14.5 RDWSD-44.8 Plt ___
___ 11:55AM BLOOD Neuts-65.4 ___ Monos-5.5 Eos-1.9 
Baso-0.5 Im ___ AbsNeut-4.17 AbsLymp-1.67 AbsMono-0.35 
AbsEos-0.12 AbsBaso-0.03
___ 12:45PM BLOOD Plt ___
___ 11:55AM BLOOD Glucose-110* UreaN-17 Creat-0.8 Na-143 
K-5.3* Cl-107 HCO3-21* AnGap-15
 
Brief Hospital Course:
Ms. ___ was admitted on ___ for management of her 
abnormal uterine bleeding. A pelvic U/S ___ showed a fibroid 
uterus, largest fibroid in uterine body 11.8 x 8.8 x 10.0 cm, 
EMS 13.5mm. She received one dose of Tranexamic acid in the ED. 
Her hematocrit and coags were stable.   

On ___, she was clinically stable and was discharged with 
Interventional Radiology follow-up as well as follow-up with Dr. 
___. She was also discharged with a prescription for PO 
tranexemic acid and PO iron.
 
Medications on Admission:
amlodipine 5, atenolol 50, epinephrine, nexplanon
 
Discharge Medications:
1.  Acetaminophen ___ mg PO Q6H:PRN Pain - Mild  
2.  Docusate Sodium 100 mg PO BID constipation 
take if constipated on iron 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*1 
3.  tranexamic acid ___ mg oral Q8H 
RX *tranexamic acid ___ mg 2 tablet(s) by mouth three times a 
day Disp #*20 Tablet Refills:*0 
4.  amLODIPine 5 mg PO DAILY  
5.  Atenolol 50 mg PO DAILY  
6.  Ferrous Sulfate 325 mg PO BID anemia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Heavy vaginal bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the gynecology service for management of 
heavy vaginal bleeding. Your bleeding has improved and you 
received 2 units of red blood cells. The team believes you are 
ready to be discharged home. Please go to your ___ appointment 
tomorrow. Please call Dr. ___ office with any questions or 
concerns. Please follow the instructions below.

* Take your medications as prescribed.
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs.
* You may eat a regular diet.
* You may walk up and down stairs.

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___.

 
Followup Instructions:
___